US04416884
A mixture of 3.1 g of 8,9-dichloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 9.1 g of 1-trifluoroacetylpiperazine and 50 ml of HMPTA was heated at 160° C. for 4 hours under atmosphere of argon. After completion of the reaction, the solvent was removed by distillation under reduced pressure and the residue was washed with water. Recrystallization of the residue from dimethylformamide gave 2.3 g of 8-(4-trifluoroacetyl-1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white rhombic crystals having a melting point of 300° C. or more.

reactant | 8,9-dichloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.1 g | ClC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C14H11Cl2NO3
reactant | 1-trifluoroacetylpiperazine | 9.1 g | FC(C(=O)N1CCNCC1)(F)F | C6H9F3N2O
solvent | HMPTA | 50 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 8-(4-trifluoroacetyl-1-piperazinyl)-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.3 g | FC(C(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl)(F)F | C20H19ClF3N3O4
